US05840816
4.5 g (27 mmol) of diphenylamine, 11.0 g (51 mmol) of piodotoluene, 5.5 g (40 mmol) of anhydrous potassium carbonate, and 1.1 g of copper chips were added to 30 mL of o-dichlorobenzene, and the mixture was refluxed for 7 hours with stirring. Upon completion of the reaction, the solution was filtered, the filtrate was washed with a 3 to 5% aqueous solution of sodium thiosulfate and then with a saturated brine. After drying the organic layer with an anhydrous sodium sulfate, the solvent was removed. The crude product was recrystallized from ethanol, whereby 4-methyltriphenylamine was obtained in an amount of 5.7 g (81.4 %).

reactant | diphenylamine | 27 mmol, 4.5 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | o-dichlorobenzene | 30 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | copper | 1.1 g | [Cu] | Cu
product | 4-methyltriphenylamine | CC1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=CC=C3 | C19H17N
